US04816452
a. Ethyl (Z)-2-(trans-2-methoxycyclohexyloxyimino)-3-oxobutyrate
Ethyl (Z)-2-hydroxyimino-3-oxobutyrate (0.98 g) was alkylated with cis-2-methoxycyclohexanol (0.89 g) as described in Example 4, method 3. The pure title compound was obtained as a colourless oil (0.3 g). νmax (film) 1745, 1695, and 1595 cm-1 ; δH (CDCl3) 1.30-2.30 (13H, m), 2.39 (3H, s), 3.42 (3H, s), and 4.20-4.60 (3H, m). [Mass spectrum: CI MH+ (272)].

reactant | Ethyl (Z)-2-hydroxyimino-3-oxobutyrate | 0.98 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | cis-2-methoxycyclohexanol | 0.89 g | CO[C@@H]1[C@@H](CCCC1)O | C7H14O2
product | Ethyl (Z)-2-(trans-2-methoxycyclohexyloxyimino)-3-oxobutyrate | CO[C@H]1[C@@H](CCCC1)O\N=C(/C(=O)OCC)\C(C)=O | C13H21NO5
